US08207134B2
8) Synthesis of (1S,3′R,4′S,5′S,6′R)-8-[(4-ethylphenyl)methyl]-3,3′,4,4′,5′,6′-hexahydro-6′-hydroxymethyl-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran]-3′,4′,5′-triol
To a solution of (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-8-[(4-ethylphenyl)methyl]-3,3′,4,4′,5′,6′-hexahydro-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran] (23 mg, 0.028 mmol) in methanol (1 mL) and ethyl acetate (1 mL) was added 10% palladium on carbon (10 mg). The resultant mixture was stirred under a hydrogen atmosphere for 1 hour at room temperature, and the catalyst was then filtered off. Solvent was then removed by distillation under reduced pressure, and the resulting residue was purified by silica gel column chromatography (developing solution=dichloromethane:methanol (10:1)), to thereby obtain the titled compound (10.4 mg, 81%).

reactant | (1S,3′R,4′S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-8-[(4-ethylphenyl)methyl]-3,3′,4,4′,5′,6′-hexahydro-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran] | 0.028 mmol, 23 mg | C(C1=CC=CC=C1)O[C@H]1[C@@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCCC=1C3=CC=CC(=C3SC12)CC1=CC=C(C=C1)CC | C53H52O6S
solvent | methanol | 1 mL | CO | CH4O
solvent | ethyl acetate | 1 mL | C(C)(=O)OCC | C4H8O2
catalyst | palladium on carbon | 10 mg | [Pd] | Pd
product | (1S,3′R,4′S,5′S,6′R)-8-[(4-ethylphenyl)methyl]-3,3′,4,4′,5′,6′-hexahydro-6′-hydroxymethyl-spiro[2-oxa-9-thia-fluorene-1,2′-[2H]pyran]-3′,4′,5′-triol | 10.4 mg, 81% | C(C)C1=CC=C(C=C1)CC=1C=CC=C2C=3CCO[C@@]4(O[C@@H]([C@H]([C@@H]([C@H]4O)O)O)CO)C3SC12 | C25H28O6S
